US04568770
A mixture of copper (11) chloride dihydrate [10 mmol] and tris (triphenylphosphine) ruthenium (11) chloride [1.0 mmol] in water [10 ml] was stirred for 10 minutes at room temperature. Then 1-decene [3.51 g, 25 mmol] was added followed by benzene [15 ml] and dodecyltrimethylammonium chloride [2.0 mmol]. Oxygen was bubbled through the solution at 80° C. for 48 hours. After cooling to room temperature, ethyl acetate (15 ml) was added and the solution was filtered. The filtrate was dried using anhydrous magnesium sulphate, and then distilled to provide pure 2-decanone in 64% yield.

reactant | 1-decene | 25 mmol, 3.51 g | C=CCCCCCCCC | C10H20
reactant | benzene | 15 ml | C1=CC=CC=C1 | C6H6
reactant | water | 10 ml | O | H2O
catalyst | dodecyltrimethylammonium chloride | 2.0 mmol | [Cl-].C(CCCCCCCCCCC)[N+](C)(C)C
catalyst | copper (11) chloride dihydrate | 10 mmol | O.O.[Cu](Cl)Cl
catalyst | tris (triphenylphosphine) ruthenium (11) chloride | 1.0 mmol | [Ru](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-decanone | 64% yield | CC(CCCCCCCC)=O | C10H20O
